US08389766B2
N-[2-Bromo-6-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethyl-propyl)-phenyl]-4-cyano-3-nitro-benzamide (63.9 g, 102.6 mmol) was dissolved in tetrahydrofuran (1200 ml). Aqueous sodium hydroxide (0.1 M, 550 ml), sodium hydrogen sulfite (65.3 g, 307.7 mmol) and tetrabutylammonium bromide (“TBAB”) (3.4 g, 10.3 mmol) were added. The mixture was vigorously stirred at 65° C. Further portions of sodium hydrogen sulfite were added after 20 minutes (65.3 g, 307.7 mmol) and after 80 minutes (32.7 g, 153.8 mmol). The reaction mixture was stirred at 65° C. for 30 minutes. Then the reaction mixture was cooled to 25° C. and diluted with ethyl acetate (1300 ml). The phases were separated and the organic phase was extracted with ethyl acetate (300 ml). The combined organic phases were washed with water, aqueous sodium hydrogen carbonate (10% w/v) (400 ml) and brine, dried over sodium sulfate and concentrated to yield 3-amino-N-[2-bromo-6-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethyl-propyl)-phenyl]-4-cyano-benzamide as a yellow solid (63.1 g) which was used in the next step without further purification.

reactant | N-[2-Bromo-6-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethyl-propyl)-phenyl]-4-cyano-3-nitro-benzamide | 102.6 mmol, 63.9 g | BrC1=C(C(=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)CC)NC(C1=CC(=C(C=C1)C#N)[N+](=O)[O-])=O | C20H11BrF9N3O3
reactant | sodium hydroxide | 0.1 M, 550 ml | [OH-].[Na+]
reactant | sodium hydrogen sulfite | 307.7 mmol, 65.3 g | S(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium bromide | 10.3 mmol, 3.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 1300 ml | C(C)(=O)OCC | C4H8O2
product | 3-amino-N-[2-bromo-6-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethyl-propyl)-phenyl]-4-cyano-benzamide | 63.1 g | NC=1C=C(C(=O)NC2=C(C=C(C=C2CC)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)Br)C=CC1C#N | C20H13BrF9N3O
